US05382585
6-(N,N-Dimethylaminocarbonylmethyl)-[1,2,5]oxadiazolo[3,4-d]pyrimidine-7(6H)-one-1-oxide
4.6 g (30 mmol) of 7-hydroxy-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide and 0.28 g (35 mmol) of lithium hydride are heated at 50° C. for 30 minutes in 65 ml of THF. A solution of 4.6 g (38 mmol) of 2-chloro-N,N-dimethylacetamide in 10 ml of THF is then added dropwise and the mixture is heated under reflux for 4 hours. The solvent is completely stripped off in a rotary evaporator and the residue is stirred with 30 ml of water for 2 hours. The precipitate is filtered off with suction and recrystallised from THF, and 2.4 g (33%) of 6-(N,N-dimethylaminocarbonylmethyl)[1,2,5]oxadiazolo[3,4-d]pyrimidine-7(6H)-one-1-oxide are obtained.

reactant | 7-hydroxy-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide | 30 mmol, 4.6 g | OC=1C=2C(N=CN1)=NO[N+]2[O-] | C4H2N4O3
reactant | lithium hydride | 35 mmol, 0.28 g | [H-].[Li+]
reactant | 2-chloro-N,N-dimethylacetamide | 38 mmol, 4.6 g | ClCC(=O)N(C)C | C4H8ClNO
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-(N,N-Dimethylaminocarbonylmethyl)-[1,2,5]oxadiazolo[3,4-d]pyrimidine-7(6H)-one-1-oxide | CN(C)C(=O)CN1C=NC=2C(C1=O)=[N+](ON2)[O-] | C8H9N5O4
